### PR TITLE
[Merged by Bors] - feat: integral of `f x • g y` over `α × β`

### PR DESCRIPTION
**Pull request by urkud**
* Generalize `integral_prod_mul` to `integral_prod_smul`, add `Integrable.prod_smul`.
* Rename `integrable_prod_mul` to `Integrable.prod_mul`.
* Add `integral_fun_fst` and `integral_fun_snd`.

---

- [x] depends on: #7620

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Constructions/Prod/Integral.lean [hunk 1]
```diff
@@ -504,15 +509,20 @@ theorem set_integral_prod (f : α × β → E) {s : Set α} {t : Set β}
   exact integral_prod f hf
 #align measure_theory.set_integral_prod MeasureTheory.set_integral_prod
 
-theorem integral_prod_mul {L : Type*} [IsROrC L] (f : α → L) (g : β → L) :
-    ∫ z, f z.1 * g z.2 ∂μ.prod ν = (∫ x, f x ∂μ) * ∫ y, g y ∂ν := by
-  by_cases h : Integrable (fun z : α × β => f z.1 * g z.2) (μ.prod ν)
+theorem integral_prod_smul {𝕜 : Type*} [IsROrC 𝕜] [NormedSpace 𝕜 E] (f : α → 𝕜) (g : β → E) :
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Constructions/Prod/Integral.lean:512]: In `Integrable.prod_smul`, you generalized `IsROrC` to `NontriviallyNormedField`. Here you kept `IsROrC`. Is the generalization impossible here?

**Review by RemyDegenne — APPROVED** [review]
Thanks!
bors d+

**Comment by urkud** [comment]
bors merge
